US06849701B2
MIP with Estradiol Benzoate (EB) as Template
To a 500 mL glass resin keftle (equipped with water-driven condenser, air-driven agitator with Teflon® paddle, N2 sweep, and heating mantle) 100 mL water with 1.2 g polyvinylpyrolidone was charged. This suspending medium was heated to approximately 90° C. and agitation of 700 rpm was then achieved. A pre-heated glass syringe was used to dropwise add a previously mixed reaction mixture of 0.82 g MAA, 0.99 g styrene, 18.2 g EGDMA, 1.78 g EB, 0.16 g VAZO-67®, 18.71 g cyclohexanol, and 1.96 g dodecylalcohol to the water by gravity feed. Dropwise addition of the monomer-template reaction mixture was complete in 35 min. Polymerization was complete 20 min thereafter, and the polymer beads were recovered via Buchner filtration.

reactant | styrene | 0.99 g | C=CC1=CC=CC=C1 | C8H8
reactant | EGDMA | 18.2 g | CC(=C)C(=O)OCCOC(=O)C(=C)C | C10H14O4
reactant | VAZO-67 | 0.16 g | CCC(C)(C#N)N=NC(C)(CC)C#N | C10H16N4
reactant | cyclohexanol | 18.71 g | C1(CCCCC1)O | C6H12O
reactant | dodecylalcohol | 1.96 g | C(CCCCCCCCCCC)O | C12H26O
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
product | Estradiol Benzoate | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)OC(=O)C=5C=CC=CC5 | C25H28O3
